US05155130
The starting material is prepared as follows: 4-Bromoanisole (28.06 g, 0.15 mol), 4-tert-butylphenol (27.04 g, 0.18 mol), potassium carbonate (6.9 g, 0.05 mol) and copper powder (0.2 g, 3 mmol) are combined under nitrogen and heated at 210° C. for 2.5 hours. The mixture is then cooled and treated with 1N NaOH to pH 12. Three extractions with ether are carried out. The combined extracts are dried (MgSO4) and evaporated. The residue is distilled under vacuum to yield 4-(p-tert-butylphenoxy)anisole, b.p. 220° C./20 mmHg. A mixture of the product (18.55 g, 68.5 mmol) and pyridinium hydrochloride (500 g, 4.33 mol) is heated at 230° C. for 2 hours under nitrogen, then cooled to room temperature and partitioned between water and ether. The aqueous layer is extracted with ether, the extract is dried (MgSO4) and evaporated to give 4-(p-tert-butylphenoxy)phenol as an oil. Such is converted to 5-(p-tert-butylphenoxy)salicylaldehyde, which is then converted to 3-(N-hydroxyaminomethyl)-6-(p-tert-butylphenoxy-2H-1-benzopyran as described hereinabove.

reactant | 4-Bromoanisole | 0.15 mol, 28.06 g | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | 4-tert-butylphenol | 0.18 mol, 27.04 g | C(C)(C)(C)C1=CC=C(C=C1)O | C10H14O
reactant | potassium carbonate | 0.05 mol, 6.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | NaOH | 1N | [OH-].[Na+]
catalyst | copper | 3 mmol, 0.2 g | [Cu] | Cu
product | 4-(p-tert-butylphenoxy)anisole | C(C)(C)(C)C1=CC=C(OC2=CC=C(C=C2)OC)C=C1 | C17H20O2
